US07666848B2
d) (3-Benzyloxy-5-isopropyl-thiophen-2-yl)-(4-methoxy-phenyl)-methanone
860 mg of 3-benzyloxy-5-isopropyl-N-methoxy-N-methylthiophene-2-carboxamide were dissolved in 50 ml of tetrahydrofuran (THF) and cooled to 0> C. in an ice bath, and 31.3 ml of 0.5 molar 4-methoxyphenymagnesium bromide solution in tetrahydrofuran were added. After 30 min, the ice bath was removed and the reaction mixture was warmed to 22° C. After one hour, 70 ml of saturated sodium bicarbonate solution were added to the reaction mixture, and it was extracted twice with 100 ml of methyl acetate each time. The combined organic phases were washed with 70 ml of saturated sodium chloride solution, dried over sodium sulfate and concentrated. The crude product was purified by column chromatography (SiO2, ethyl acetate/n-heptane=1:3).

reactant | 3-benzyloxy-5-isopropyl-N-methoxy-N-methylthiophene-2-carboxamide | 860 mg | C(C1=CC=CC=C1)OC1=C(SC(=C1)C(C)C)C(=O)N(C)OC | C17H21NO3S
reactant | 4-methoxyphenymagnesium bromide | 0.5 molar, 31.3 ml | COC1=CC=C(C=C1)[Mg]Br
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (3-Benzyloxy-5-isopropyl-thiophen-2-yl)-(4-methoxy-phenyl)-methanone | C(C1=CC=CC=C1)OC1=C(SC(=C1)C(C)C)C(=O)C1=CC=C(C=C1)OC | C22H22O3S
